US07932272B2
3-Bromo-quinoline-6-carboxylic acid lithium salt
To a mixture of 3-bromo-quinoline-6-carboxylic acid methyl ester described in Preparation Example 162 (26 mg, 0.098 mmol) and tetrahydrofuran (2 mL) were added methanol (0.2 mL), lithium hydroxide monohydrate (4.1 mg, 0.098 mmol) and water (0.2 mL), and the solution was stirred overnight at room temperature. The solvent was evaporated in vacuo, and the title compound (27 mg) was obtained.

reactant | 3-bromo-quinoline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(C=NC2=CC1)Br | C11H8BrNO2
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | methanol | 0.2 mL | CO | CH4O
reactant | lithium hydroxide monohydrate | 0.098 mmol, 4.1 mg | O.[OH-].[Li+]
solvent | water | 0.2 mL | O | H2O
product | 3-Bromo-quinoline-6-carboxylic acid lithium salt | 27 mg | [Li+].BrC=1C=NC2=CC=C(C=C2C1)C(=O)[O-] | InChI=1S/C10H6BrNO2.Li/c11-8-4-7-3-6(10(13)14)1-2-9(7)12-5-8;/h1-5H,(H,13,14);/q;+1/p-1
